US09120749B2
tert-butyl 5-aminopyridin-2-ylcarbamate
A solution of 5-nitropyridin-2-amine (500 mg, 3.5 mmol) in acetonitrile (10 mL), triethylamine (2.5 equiv) and dimethylaminopyridine (0.05 equiv) was stirred for 10 min followed by addition of di-tert-butyl dicarbonate (1 equiv). The reaction mixture was stirred at room temperature until the reaction was complete (by LCMS analysis). The reaction was concentrated and the residue was suspended in methanol and filtered. The n a glass clave, the crude product was dissolved in tertrahydrofuran (0.1 M), degassed with nitrogen and Pd/C (10%, 0.1 equiv) was added to the mixture. The clave was charged with hydrogen (40 Psi) and shaked at room temperature until the reduction was completed as indicated by LCMS analysis. The pressure was released and the reaction mixture was filtrated over a pad of celite. The filtrate was concentrated to obtain the desired product (437 mg, 60%) as a white solid: ESI MS m/z 210 [C10H15N3O2+H]+.

reactant | 5-nitropyridin-2-amine | 3.5 mmol, 500 mg | [N+](=O)([O-])C=1C=CC(=NC1)N | C5H5N3O2
reactant | triethylamine | 2.5 equiv | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.05 equiv | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 1 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | Pd/C | 0.1 equiv | [Pd] | Pd
product | tert-butyl 5-aminopyridin-2-ylcarbamate | 437 mg, 60% | NC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C10H15N3O2
